US06613358B2
A suspension of L-arginine free base (0.6 g, 3.5 mmol), sulfuric acid (0.31 ml, 7 mmol), and dodecanol (25 ml) were stirred together at 140° C. under nitrogen. After 6 hours, a clear light yellow solution resulted, and TLC indicated the reaction to be complete. The reaction mixture was diluted with diethyl ether (50 ml), and washed with water (3×25 ml). The combined aqueous extracts were washed with diethyl ether (2×25 ml), and basified with 1N KOH solution, upon which a white solid precipitated. Filtration of the suspension and washing of the filtrate with water (3× with 25 ml), acetone (3× with 25 ml) and diethyl ether (3× with 25 ml) gave arginine dodecyl ester. The yield was 86%. Melting point was 125-130° C. NMR gave the expected results for arginine dodecyl ester.

reactant | L-arginine | 3.5 mmol, 0.6 g | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | sulfuric acid | 7 mmol, 0.31 ml | S(O)(O)(=O)=O | H2O4S
reactant | dodecanol | 25 ml | C(CCCCCCCCCCC)O | C12H26O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | arginine dodecyl ester | yield was 86% | C(CCCCCCCCCCC)OC([C@@H](N)CCCNC(N)=N)=O | C18H38N4O2
